* Created by KLayout
*** My special header ***

* cell opamp_r2r_diff_sasaki
* pin BNI
* pin BNO
* pin BPI
* pin BPO
* pin INM
* pin INM_N
* pin INM_P
* pin INP
* pin INP_N
* pin INP_P
* pin VDD
* pin VSS
.SUBCKT opamp_r2r_diff_sasaki BNI BNO BPI BPO INM INM_N INM_P INP INP_N INP_P
+ VDD VSS
* device instance $1 r0 *1 -12.3,110.1 PMOS
XM$1 VDD BPO \$I28 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $5 r0 *1 -12.3,55.1 PMOS
XM$5 \$16 BPI \$I28 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $9 r0 *1 -12.3,0.1 PMOS
XM$9 INP_P INP \$16 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $13 r0 *1 -4.3,-66.7 NMOS
XM$13 \$26 INP INP_N VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $15 r0 *1 -4.3,-176.7 NMOS
XM$15 \$I29 BNO VSS VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $17 r0 *1 -4.3,-121.7 NMOS
XM$17 \$I29 BNI \$26 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $19 m90 *1 95.8,110.1 PMOS
XM$19 VDD BPO \$I30 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $23 m90 *1 95.8,55.1 PMOS
XM$23 \$16 BPI \$I30 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $27 m90 *1 95.8,0.1 PMOS
XM$27 INM_P INM \$16 VDD PMOS L=5u W=60u AS=109.5p AD=109.5p PS=89.6u PD=89.6u
* device instance $31 m90 *1 87.8,-66.7 NMOS
XM$31 \$26 INM INM_N VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $33 m90 *1 87.8,-176.7 NMOS
XM$33 \$I31 BNO VSS VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
* device instance $35 m90 *1 87.8,-121.7 NMOS
XM$35 \$I31 BNI \$26 VSS NMOS L=5u W=30u AS=64.5p AD=64.5p PS=53.6u PD=53.6u
.ENDS opamp_r2r_diff_sasaki
